US08357717B2
Stage (i): tert-Butyl 8-(2-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)-1,2,3,4-tetrahydroquinolin-7-yl)acetyl)-2,8-diazaspiro[4.5]decane-2-carboxylate
The target compound was prepared according to general working procedure GWP X (TBTU coupling) from the starting materials 2-(1-(4-methoxy-2,6-dimethylphenyl-sulfonyl)-1,2,3,4-tetrahydroquinolin-7-yl)acetic acid (E-10) and tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate (F-26). Yield: 53%

reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 2-(1-(4-methoxy-2,6-dimethylphenyl-sulfonyl)-1,2,3,4-tetrahydroquinolin-7-yl)acetic acid | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1CCCC2=CC=C(C=C12)CC(=O)O)C | C20H23NO5S
reactant | tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate | C1N(CCC12CCNCC2)C(=O)OC(C)(C)C | C13H24N2O2
product | tert-Butyl 8-(2-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)-1,2,3,4-tetrahydroquinolin-7-yl)acetyl)-2,8-diazaspiro[4.5]decane-2-carboxylate | Yield: 53% | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1CCCC2=CC=C(C=C12)CC(=O)N1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C | C33H45N3O6S
